US07750161B2
B9.2. [2-(3,3-Diphenyl-pyrrolidin-1-yl)-ethyl]-carbamic acid benzyl ester
(2-Bromo-ethyl)-carbamic acid benzyl ester (1.10 g, 4.26 mmol), 3,3-diphenyl-pyrrolidine (Example A18, 836 mg, 3.75 mmol) and DIPEA (1.0 mL 5.7 mmol) are dissolved in THF (20 mL) and stirred for 15 h at reflux. The mixture is quenched with Na2CO3 (50 mL) and extracted with CH2Cl2 (3×50 mL). The organic extracts are washed with sat. aq. Na2CO3 (30 mL), dried (Na2SO4), filtered and evaporated. The residue is purified by FC (SiO2, EtOAc-heptane) to provide the title compound.

reactant | (2-Bromo-ethyl)-carbamic acid benzyl ester | 4.26 mmol, 1.10 g | C(C1=CC=CC=C1)OC(NCCBr)=O | C10H12BrNO2
reactant | 3,3-diphenyl-pyrrolidine | 3.75 mmol, 836 mg | C1(=CC=CC=C1)C1(CNCC1)C1=CC=CC=C1 | C16H17N
reactant | DIPEA | 5.7 mmol, 1.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [2-(3,3-Diphenyl-pyrrolidin-1-yl)-ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCN1CC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H28N2O2
